US07067529B2
1-(3-Butoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid
The above intermediate, 1-(3-butoxybenzoyl)-6,7-dimethoxy-4-ethoxycarbonyl-isoquinoline (390 mg, 0.89 mmol) was dissolved in a solution of ethanol (10 ml), THF (5 ml) and 4N sodium hydroxide (1 ml). The mixture was refluxed until all starting material was consumed. Solvents were evaporated and 25 ml of water was added. The solution was washed with ethyl ether (2×10 ml). The aqueous phase was neutralized by the addition of 4 ml of 1.0 N hydrochloric acid. The milky mixture was extracted with two 25 ml portions of ethyl acetate. The organic layer was washed with brine. The organic extracts were dried over sodium sulfate, filtered and evaporated to give 350 mg of yellow solid which was stirred in 25 ml of ethyl ether. The solid was filtered and washed with cold ethyl ether to produce 310 mg of the carboxylic acid as a yellow solid 1-(3-Butoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid.

reactant | 1-(3-butoxybenzoyl)-6,7-dimethoxy-4-ethoxycarbonyl-isoquinoline | 0.89 mmol, 390 mg | C(CCC)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)OCC)C=CC1 | C25H27NO6
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
product | 1-(3-Butoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid | 350 mg | C(CCC)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)O)C=CC1 | C23H23NO6
